US08809527B2
A solution of 4,6-dihydroxy-2-methylthiopyrimidine (42 g, 0.257 mol) in trifluoroacetic acid (91 ml, 1.186 mol) was stirred at 23° C. and warmed until all solid had gone into solution. The reaction was stirred for five hours at 23° C. Next, fuming HNO3 (15 ml, 350 mmol) was added portion wise to the reaction mixture over 25 minutes at 0° C. The reaction was stirred for twenty hours at 23° C., and treated with H2O (at 23° C.) at 80% conversion (according LC-MS). The solid precipitate was captured via filteration giving 4,6-dihydroxy-2-methylthio-5-nitropyrimidine as a tan-colored solid. The crude solid was azeotroped with toluene to give 35 g of pale tan powdery solid. 1H-NMR: 300 MHz, (CD3OD, 300 MHz) δ (ppm) 2.63 (s, 3H). LCMS-ESI−: calc'd for C5H4N3O4S: 202.0 (M−H−). Found: 202.0 (M−H−).

reactant | 4,6-dihydroxy-2-methylthiopyrimidine | 0.257 mol, 42 g | OC1=NC(=NC(=C1)O)SC | C5H6N2O2S
reactant | trifluoroacetic acid | 1.186 mol, 91 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | HNO3 | 350 mmol, 15 ml | [N+](=O)(O)[O-] | HNO3
solvent | H2O | O | H2O
product | 4,6-dihydroxy-2-methylthio-5-nitropyrimidine | OC1=NC(=NC(=C1[N+](=O)[O-])O)SC | C5H5N3O4S
